US09403807B2
Step C: (E)-methyl 2-(4-chlorophenyl)-2-(4-(2-(methylsulfonyl)vinyl)-1H-indol-1-yl)butanoate
To a solution of diethyl methylsulfonylmethylphosphonate (1.05 g, 4.56 mmol) in CH3CN (30 mL) at RT was added LiCl (0.16 g, 3.80 mmol) and DBU (2.40 g, 9.56 mmol). After 5 min, a solution of methyl 2-(4-chlorophenyl)-2-(4-formyl-1H-indol-1-yl)butanoate (1.35 g, 3.80 mmol) in CH3CN (10 mL) was added dropwise. The resulting mixture was stirred for 4 hours at RT. Then it was diluted with DCM (50 mL) and the organic layer was washed with water (30 mL), dried over Na2SO4, filtered. After removal of the solvent, the residue was purified via column chromatography (0-30% EtOAc/hexanes) to provide the title compound. LC/MS m/z=432.0[M+H]+.

reactant | diethyl methylsulfonylmethylphosphonate | 4.56 mmol, 1.05 g | CS(=O)(=O)CP(OCC)(OCC)=O | C6H15O5PS
reactant | LiCl | 3.80 mmol, 0.16 g | [Li+].[Cl-]
reactant | DBU | 9.56 mmol, 2.40 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl 2-(4-chlorophenyl)-2-(4-formyl-1H-indol-1-yl)butanoate | 3.80 mmol, 1.35 g | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)C=O | C20H18ClNO3
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (E)-methyl 2-(4-chlorophenyl)-2-(4-(2-(methylsulfonyl)vinyl)-1H-indol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)\C=C\S(=O)(=O)C | C22H22ClNO4S
